US05475001
Using an analogous procedure to that described in Example 4, 6-amino-7-chloro-4-(3',4'-dichloroanilino)quinazoline was reacted with 2-chloroacetyl chloride to give 7-chloro-6-(2-chloroacetamido)-4-(3',4'-dichloroanilino)quinazoline hydrochloride in 76% yield, m.p.>280° C.;

reactant | 6-amino-7-chloro-4-(3',4'-dichloroanilino)quinazoline | NC=1C=C2C(=NC=NC2=CC1Cl)NC1=CC(=C(C=C1)Cl)Cl | C14H9Cl3N4
reactant | 2-chloroacetyl chloride | ClCC(=O)Cl | C2H2Cl2O
product | 7-chloro-6-(2-chloroacetamido)-4-(3',4'-dichloroanilino)quinazoline hydrochloride | 76% yield | Cl.ClC1=C(C=C2C(=NC=NC2=C1)NC1=CC(=C(C=C1)Cl)Cl)NC(CCl)=O | InChI=1S/C16H10Cl4N4O.ClH/c17-6-15(25)24-14-4-9-13(5-12(14)20)21-7-22-16(9)23-8-1-2-10(18)11(19)3-8;/h1-5,7H,6H2,(H,24,25)(H,21,22,23);1H
